US07572809B2
Under Ar, trifluoro-methanesulfonic acid 7-fluoro-1-isopropoxy-3-(5-methyl-1-trifluoromethanesulfonyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester (60 mg), pyrrolidin-2-one, Pd2 (dba)3 (4.8 mg), Xantphos (12 mg) and K3PO4 (61.8 mg) were added to dioxane (5 ml), the mixture was heated at 100° C. for 20 hrs. The mixture was filtrated, and the filtrate was concentrated to give crude product. It was purified by preparative LC-MS to give 1-[7-Fluoro-1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-pyrrolidin-2-one (20 mg). LC-MS: m/e 384 (MH+).

reactant | trifluoro-methanesulfonic acid 7-fluoro-1-isopropoxy-3-(5-methyl-1-trifluoromethanesulfonyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester | 60 mg | FC1=C(C=C2C=C(N=C(C2=C1)OC(C)C)NC1=NN(C(=C1)C)S(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C18H15F7N4O6S2
reactant | pyrrolidin-2-one | N1C(CCC1)=O | C4H7NO
reactant | Xantphos | 12 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K3PO4 | 61.8 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2 (dba)3 | 4.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1-[7-Fluoro-1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl]-pyrrolidin-2-one | 20 mg | FC1=C(C=C2C=C(N=C(C2=C1)OC(C)C)NC1=NNC(=C1)C)N1C(CCC1)=O | C20H22FN5O2
